US09376401B2
Preparation of 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (Compound 1)
To a 250 mL reaction flask was added 3-bromo-1H-1,2,4-triazole (5 g, 33.8 mmol), CuI (0.644 g, 3.38 mmol) and Cs2CO3 (11.01 g, 33.8 mmol). The flask was evacuated/backfilled with nitrogen gas, and then DMSO (33.8 ml) and 1-iodo-4-(trifluoromethoxy)benzene (4.87 g, 16.90 mmol) were added. The reaction mixture was heated to 100° C. for 20 hours (h). The reaction wascooled to room temperature (RT), diluted with EtOAc and filtered through a plug of Celite®. The Celite® was further washed with EtOAc. Water was added to the combined organics, and the layers were separated. The aqueous phase was neutralized to pH 7, and further extracted with EtOAc. The combined organics were concentrated in vacuo. Purification via flash column chromatography using EtOAc/hexanes as eluent provided the title compound as an off-white solid (3.78 g, 73%): mp 69-70° C.; 1H NMR (400 MHz, CDCl3) δ 8.44 (s, 1H), 7.70 (d, J=8.9 Hz, 2H), 7.38 (d, J=8.5 Hz, 2H); 19F NMR (376 MHz, CDCl3) δ-58.04; EIMS m/z 307 ([M]+).

reactant | 3-bromo-1H-1,2,4-triazole | 33.8 mmol, 5 g | BrC1=NNC=N1 | C2H2BrN3
reactant | Cs2CO3 | 33.8 mmol, 11.01 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMSO | 33.8 ml | CS(=O)C | C2H6OS
reactant | 1-iodo-4-(trifluoromethoxy)benzene | 16.90 mmol, 4.87 g | IC1=CC=C(C=C1)OC(F)(F)F | C7H4F3IO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 3.38 mmol, 0.644 g | [Cu]I
product | 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 3.78 g, 73% | BrC1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C9H5BrF3N3O
